### PR TITLE
[Merged by Bors] - chore: remove some exceptions for `linter.unusedSimpArgs`

### PR DESCRIPTION
**Pull request by felixpernegger**
Removes all exceptions for the linter when it was indeed right. (tech debt)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Formula.lean [hunk 1]
```diff
@@ -365,15 +365,13 @@ lemma addX_eq_addX_negY_sub {x₁ x₂ : F} (y₁ y₂ : F) (hx : x₁ ≠ x₂)
...
--- see https://github.com/leanprover-community/mathlib4/issues/29041
-set_option linter.unusedSimpArgs false in
 /-- The formula `y(P₁)(x(P₂) - x(P₃)) + y(P₂)(x(P₃) - x(P₁)) + y(P₃)(x(P₁) - x(P₂)) = 0`,
 assuming that `P₁ + P₂ + P₃ = O`. -/
 lemma cyclic_sum_Y_mul_X_sub_X {x₁ x₂ : F} (y₁ y₂ : F) (hx : x₁ ≠ x₂) :
     let x₃ := W.addX x₁ x₂ (W.slope x₁ x₂ y₁ y₂)
     y₁ * (x₂ - x₃) + y₂ * (x₃ - x₁) + W.negAddY x₁ x₂ y₁ (W.slope x₁ x₂ y₁ y₂) * (x₁ - x₂) = 0 := by
   simp_rw [slope_of_X_ne hx, negAddY, addX]
-  simp [field, sub_ne_zero.mpr hx]
+  simp [field]
```
Comment (grunweg) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Formula.lean:374]: Ah - this is due to a (relatively) recent change to positivity, that this lemma is tried by positivity itself. Makes perfect sense.

Feel free to search for the same pattern in positivity, if you want.

**Review by grunweg — COMMENTED** [review]
Thanks!
bors merge
